US06696470B2
3-Benzoyl-2,5-dichlorothiophene
To a stirred solution of 2,5-dichloro-N-methoxy-N-methyl-3-thiophenecarboxamide (350 mg, 1.46 mmol) in THF (5 mL) was added 3M solution of phenylmagnesium bromide in diethyl ether (1.2 mL, 3.6 mmol) at −78° C., and the mixture was stirred for 4 hours at −30° C. Saturated ammonium chloride solution was added, and the whole was extracted with ethyl acetate (60 mL×2). The combined organic layers were washed with saturated NaHCO3 solution, brine, dried over MgSO4, and concentrated in vacuo. The resulting residue was purified by flash chromatography eluting with hexane-ethyl acetate (12:1) to provide the title product as a yellow oil. (212 mg, 56% yield).

reactant | 2,5-dichloro-N-methoxy-N-methyl-3-thiophenecarboxamide | 1.46 mmol, 350 mg | ClC=1SC(=CC1C(=O)N(C)OC)Cl | C7H7Cl2NO2S
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl ether | 3.6 mmol, 1.2 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Benzoyl-2,5-dichlorothiophene | 56% yield | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1)Cl)Cl | C11H6Cl2OS
